US07371773B2
4-Hydroxybenzyl cyanide (5.0 g) and 1-bromobutane (5.7 g) were dissolved in dimethylformamide (100 mL), and potassium carbonate (6.2 g) was added to the resultant solution, followed by heating at 80° C. for one hour, to thereby allow reaction to proceed. After completion of reaction, the resultant reaction mixture was cooled, and then partitioned between brine and ethyl acetate. The resultant ethyl acetate layer was dried over anhydrous sodium sulfate, and concentrated. The thus-concentrated product was purified by use of a silica gel column employing hexane/ethyl acetate (4:1), to thereby produce 4-butoxybenzyl cyanide (5.1 g, yield: 70%). The thus-produced 4-butoxybenzyl cyanide (2.0 g) and the 4-methoxyethoxymethoxybenzaldehyde (2.2 g) produced in the production process for compound 1 were subjected to condensation in accordance with process A of (production process 2), to thereby yield an MEM form of the target product. Subsequently, the protective group was removed from the MEM form in accordance with (production process 3), to thereby produce the target product (0.7 g, yield: 23%).

reactant | 4-Hydroxybenzyl cyanide | 5.0 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | 1-bromobutane | 5.7 g | BrCCCC | C4H9Br
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-butoxybenzyl cyanide | 5.1 g, yield: 70% | C(CCC)OC1=CC=C(CC#N)C=C1 | C12H15NO
